US04744812
1.44 parts by weight of 80% strength sodium hydride were suspended in 25 parts by volume of absolute tetrahydrofuran, and a solution of 5.31 parts by weight of methylthioacetate in 50 parts by volume of absolute tetrahydrofuran was added a little at a time at room temperature. Stirring was continued for half an hour and a solution of 18.3 parts by weight of 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzyl chloride in 50 parts by volume of absolute tetrahydrofuran was then added. The reaction mixture was then stirred under reflux for a further 3 hours, was cooled, and was concentrated under reduced pressure. The residue was taken up in ether, the solution was extracted with water, the organic phase was separated off, dried with magnesium sulfate and filtered, and the ether was evaporated. The oily residue crystallized when triturated and was recrystallized from diisopropyl ether. 16 parts by weight (73% of theory) of methyl 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzylthioacetate (compound No. 13) of melting point 61°-63° C. were obtained.

reactant | sodium hydride | [H-].[Na+]
reactant | methylthioacetate | COC(C)=S | C3H6OS
reactant | 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzyl chloride | ClC1=C(OC=2C=C(CCl)C(=CC2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H8Cl2F3NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzylthioacetate | 73% | ClC1=C(OC=2C=C(CCC(=S)OC)C(=CC2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C17H13ClF3NO4S
